US04244957
Preparation of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine
0.6 g. of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine hydrobromide is dissolved in a little water and the pH is adjusted to 10 with 1 N caustic soda solution. The precipitate formed is extracted with methylene chloride. The organic extracts are dried over sodium sulfate and evaporated to dryness. The residue is recrystallized from acetonitrile, whereupon 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine, m.p. 215° (decomp.) is obtained.

reactant | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine hydrobromide | Br.ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O
reactant | caustic soda | 1 N | [OH-].[Na+]
solvent | water | O | H2O
product | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
